US04432971
(a) N-[(1,1-Dimethylethoxy)carbonyl]-N-methylglycine
A mixture of sarcosine (1.5 g., 16.7 mmole), triethylamine (3.5 ml., 1 eq.), and water (10 ml.) is treated with 2-(t-butyoxycarbonyloxyimino)-2-phenylacetonitrile (4.5 g., 1.1 eq.) in dioxane (10 ml.) at 25°. After 3 hours, the reaction mixture is diluted with water and then washed twice with ethyl acetate. The aqueous phase is acidified to pH 3.0 with 10% citric acid and the resulting oil is extracted with ethyl acetate (twice). The combined extracts are washed with brine, dried (MgSO4), and evaporated to give 3.0 g. of N-[(1,1-dimethylethoxy)carbonyl]-N-methylglycine as a viscous oil which crystallizes on standing; m.p. 84°-85.5°. Tlc (dichloromethane/methanol/acetic acid; 100:5:5) shows a single spot at Rf 0.6.

reactant | sarcosine | 16.7 mmole, 1.5 g | N(C)CC(=O)O | C3H7NO2
reactant | triethylamine | 3.5 ml, 1 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-(t-butyoxycarbonyloxyimino)-2-phenylacetonitrile | 4.5 g, 1.1 eq. | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | N-[(1,1-Dimethylethoxy)carbonyl]-N-methylglycine | CC(C)(OC(=O)N(CC(=O)O)C)C | C8H15NO4
